### PR TITLE
Prove schedContextDonate_corres

### PR DESCRIPTION
**Pull request by ryybrr**
I updated `schedContextDonate` to align with the Abstract and C specs. I then proved `schedContextDonate_corres`.

### CODE REVIEW

File: proof/refine/ARM/TcbAcc_R.thy [hunk 1]
```diff
@@ -2413,15 +2426,21 @@ lemma rescheduleRequired_corres:
...
+   apply (clarsimp simp: no_fail_def return_def vs_all_heap_simps
+                         obj_at_def pred_tcb_at_def weaker_valid_sched_action_def)
   apply (corressimp corres: tcbSchedEnqueue_corres
                       simp: obj_at_def is_tcb_def weak_sch_act_wf_def)
   done
 
+lemma rescheduleRequired_corres:
+  "corres dc (valid_tcbs and weak_valid_sched_action and pspace_aligned and pspace_distinct)
+             (valid_tcbs' and valid_queues and valid_queues' and valid_release_queue_iff)
+             (reschedule_required) rescheduleRequired"
```
Comment (MitchellBuckley) [inline proof/refine/ARM/TcbAcc_R.thy:2440]: nitpick: unneeded parentheses

File: proof/refine/ARM/TcbAcc_R.thy [hunk 2]
```diff
@@ -2413,15 +2426,21 @@ lemma rescheduleRequired_corres:
...
-
+    apply (clarsimp simp: exs_valid_def return_def vs_all_heap_simps
+                          obj_at_def pred_tcb_at_def weaker_valid_sched_action_def)
+   apply (clarsimp simp: no_fail_def return_def vs_all_heap_simps
+                         obj_at_def pred_tcb_at_def weaker_valid_sched_action_def)
   apply (corressimp corres: tcbSchedEnqueue_corres
                       simp: obj_at_def is_tcb_def weak_sch_act_wf_def)
   done
 
+lemma rescheduleRequired_corres:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/TcbAcc_R.thy:2437]: Nice! I'm surprised this didn't already exist.

File: proof/refine/ARM/TcbAcc_R.thy [hunk 3]
```diff
@@ -2367,8 +2367,20 @@ lemma get_sc_refill_ready_sp:
            \<and> P s\<rbrace>"
   by (wpsimp simp: obj_at_def)
 
-lemma rescheduleRequired_corres:
-  "corres dc (valid_tcbs and weak_valid_sched_action and pspace_aligned and pspace_distinct)
+definition weaker_valid_sched_action where
```
Comment (MitchellBuckley) [inline proof/refine/ARM/TcbAcc_R.thy:2370]: If this is really needed, consider moving it somewhere like `Invariants_H.thy`

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -3049,13 +3049,15 @@ lemma thread_set_valid_tcb[wp]:
   by (wpsimp wp: get_object_wp simp: thread_set_def)
 
 lemma thread_set_valid_tcbs[wp]:
-  "\<lbrace>valid_tcbs and tcb_at tptr and
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:3052]: Nice :+1:

**Review by MitchellBuckley — APPROVED** [review]
This is a really neat peice of work!

Can you explain why we need `weaker_valid_sched_action`? It's good to make sure that new definitions have a definite reason for existing, otherwise we really end up cluttering the code and making things a bit harder to understand in the long run.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 2 above)
Comment (ryybrr) [reply proof/refine/ARM/TcbAcc_R.thy:2437]: It actually did, but I needed to weaken the precondition because `weak_valid_sched_action` can't be propagated backwards over the `thread_set` instance in `sched_context_donate`. Hence, I've introduced a weaker variant of the corres rule to use in this particular case and moved the proofs to that rule to avoid boilerplating.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 3 above)
Comment (ryybrr) [reply proof/refine/ARM/TcbAcc_R.thy:2370]: It's needed, but only for this proof. Does anyone else have an opinion on this?

Comment (MitchellBuckley) [reply proof/refine/ARM/TcbAcc_R.thy:2370]: If it's only needed for local proofs, then I think it's ok to leave the definition here. Thanks for clarifying :+1:

**Review by corlewis — APPROVED** [review]

File: proof/refine/ARM/Finalise_R.thy [hunk 5]
```diff
@@ -2902,13 +2902,21 @@ crunch invs[wp]: prepareThreadDelete "invs'"
 
 end
 
+lemma weak_sch_act_wf_updates[simp]:
+  "weak_sch_act_wf sa (s\<lparr>ksReprogramTimer := a\<rparr>) = weak_sch_act_wf sa s"
+  "weak_sch_act_wf sa (s\<lparr>ksReleaseQueue := b\<rparr>) = weak_sch_act_wf sa s"
+  by (auto simp: weak_sch_act_wf_def tcb_in_cur_domain'_def)
+
+crunches tcbReleaseRemove
+  for weak_sch_act_wf[wp]: "\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s"
```
Comment (mktnk3) [inline proof/refine/ARM/Finalise_R.thy:2911]: would it be possible to combine some of these crunches together? I imagine they are placed as they are needed, so it might not be possible, but if we can have a bigger crunches block where possible, that would be easier to maintain.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 3 above)
Comment (mktnk3) [reply proof/refine/ARM/TcbAcc_R.thy:2370]: Maybe a line of comment explaining what this is would be good to have :)

**Review by mktnk3 — APPROVED** [review]
Nice work! Glad that we could catch the missed spec update.

File: proof/refine/ARM/Finalise_R.thy [hunk 6]
```diff
@@ -3530,6 +3538,8 @@ lemma schedContextDonate_valid_queues:
    apply (rule_tac B="\<lambda>_. ?pre" in hoare_seq_ext[rotated])
     apply (wpsimp wp: tcbSchedDequeue_valid_queues)
     apply (fastforce intro: valid_objs'_maxDomain valid_objs'_maxPriority)
+   apply (rule hoare_seq_ext_skip)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:3541]: Slowly converting you to forward reasoning, I see

File: proof/refine/ARM/Finalise_R.thy [hunk 7]
```diff
@@ -3831,13 +3855,30 @@ lemma tcbSchedDequeue_valid_inQ_queues:
   done
 
 lemma threadSet_tcbSchedContext_update_valid_inQ_queues[wp]:
-  "\<lbrace>valid_inQ_queues and tcb_at' t\<rbrace>
+  "\<lbrace>valid_inQ_queues\<rbrace>
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:3858]: Cool. And maybe now that it's "invariant", could you use that notation?

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -3840,6 +3841,15 @@ crunches schedContextDonate
      wp: threadSet_not_inQ hoare_vcg_imp_lift' valid_irq_node_lift valid_irq_handlers_lift''
          setQueue_cur untyped_ranges_zero_lift threadSet_ifunsafe'T threadSet_cur crunch_wps)
 
+lemma tcbReleaseRemove_list_refs_of_replies'[wp]:
+  "tcbReleaseRemove tcbPtr \<lbrace>\<lambda>s. P (list_refs_of_replies' s)\<rbrace>"
+  by (wpsimp simp: tcbReleaseRemove_def)
+
+lemma schedContextDonate_list_refs_of_replies' [wp]:
+"schedContextDonate scPtr tcbPtr \<lbrace>\<lambda>s. P (list_refs_of_replies' s)\<rbrace>"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3849]: Indentation

File: proof/refine/ARM/TcbAcc_R.thy [hunk 9]
```diff
@@ -2367,10 +2367,22 @@ lemma get_sc_refill_ready_sp:
...
+  "weaker_valid_sched_action s \<equiv>
+   \<forall>t. scheduler_action s = switch_thread t \<longrightarrow>
+       tcb_at t s \<and> (bound_sc_tcb_at ((\<noteq>) None) t s \<longrightarrow> released_sc_tcb_at t s)"
+
+lemma weak_valid_sched_action_strg:
+  "weak_valid_sched_action s \<longrightarrow> weaker_valid_sched_action s"
+  by (fastforce simp: weak_valid_sched_action_def weaker_valid_sched_action_def
```
Comment (michaelmcinerney) [inline proof/refine/ARM/TcbAcc_R.thy:2377]: Maybe `vs_all_heap_simps` or `obj_at_kh_kheap_simps` or both would do the trick here, or at least reduce the number of things you have to give to simp

**Review by michaelmcinerney — APPROVED** [review]
Very nice, as always

File: proof/refine/ARM/Finalise_R.thy (hunk 5 above)
Comment (ryybrr) [reply proof/refine/ARM/Finalise_R.thy:2911]: They are a little bit strategic, it's difficult to combine them together without things breaking.

Comment (mktnk3) [reply proof/refine/ARM/Finalise_R.thy:2911]: I see. Yes, that is very much likely. Thanks for having a try anyway.
